US07253194B2
[1-(Methoxy-methyl-carbamoyl)-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester (25)
2-tert-Butoxycarbonylamino-3-(1-trityl-1H-imidazol-4-yl)-propionic acid (4.56 g, 9.18 mmol), DIPEA (3.55 g, 4.79 mL, 27.53 mmol), BOP (4.26 g, 9.63 mmol) and N,O-dimethylhydroxylamine hydrochloride (940 mg, 9.63 mmol) in DMF (100 mL) were stirred overnight. The DMF was removed and CH2Cl2 added. The solution was washed with dilute aqueous HCl (1M, 4X), water and brine. The solution was dried, filtered and the solvent removed. The product was chromatographed (silica gel, EA/PE, Rf 0.38 EA) to afford the title compound (4.475 g, 90.4%). ESMS 541 (M+H+) 1H NMR (500 MHz, CDCl3) δ 1.39 (9H, s), 2.92 (1H, dd, J=6.13, 14.45), 2.98 (1H, dd, J=5.63, 14.45), 3.13 (3H, s), 3.73 (3H, s), 4.87 (1H, m), 5.61 (1H, d, J=6.95 Hz), 6.57 (1H, s), 7.11 (6H, m), 7.32 (9H, m), 7.46 (1H, s). 13C NMR (CDCl3) 28.19, 30.34, 31.02, 50.55, 61.49, 75.62, 79.34, 119.74, 127.98, 129.59, 135.19, 137.95, 141.77, 155.19, 171.77.

reactant | 2-tert-Butoxycarbonylamino-3-(1-trityl-1H-imidazol-4-yl)-propionic acid | 9.18 mmol, 4.56 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N3O4
reactant | DIPEA | 27.53 mmol, 4.79 mL, 3.55 g | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 9.63 mmol, 4.26 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 9.63 mmol, 940 mg | Cl.CNOC
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | [1-(Methoxy-methyl-carbamoyl)-2-(1-trityl-1H-imidazol-4-yl)-ethyl]-carbamic acid tert-butyl ester | 4.475 g, 90.4% | C(C)(C)(C)OC(NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(N(C)OC)=O)=O | C32H36N4O4
